US07001897B2
p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[3-(t-butyldiphenylsilyloxy)-azetidin-1-ylcarbonyl]-1,3-oxazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (1.20 g, 1.43 mmol) (obtained as described in Example 78(1)) in tetrahydrofuran (60 ml) was added to acetic acid (240 μl, 4.30 mmol) and 1 M tetrabutylammonium fluoride in tetrahydrofuran solution (4.30 ml, 4.30 mmol) and the mixture was stirred at room temperature for 4 days. After checking the completion of the reaction, ethyl acetate and saturated aqueous sodium chloride solution were added to the reaction mixture. The resulting mixture was shaken in a separatory funnel and the ethyl acetate layer was separated, washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (eluant: ethyl acetate:methanol(95:5→9:1)) to afford p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(3-hydroxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (325 mg, yield 38%) as a pale yellow solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[3-(t-butyldiphenylsilyloxy)-azetidin-1-ylcarbonyl]-1,3-oxazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.43 mmol, 1.20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C(=O)C=1N=C(OC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C43H47N5O9SSi
reactant | acetic acid | 4.30 mmol, 240 μl | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.30 mmol, 4.30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl (1R,5S,6S)-2-{1-[4-(3-hydroxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 325 mg, yield 38% | OC1CN(C1)C(=O)C=1N=C(OC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C27H29N5O9S
